US06174885B1
{6-[(Octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride (Compound 6)
4N Hydrochloric acid/ethyl acetate solution (11.5 ml) was added to a solution of {6-[(octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate (16.43 g) in ethyl acetate (150 ml). After being stirred for 10 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate-ethanol mixed solution, thereby yielding the entitled compound (14.69 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 11.5 ml | Cl.C(C)(=O)OCC
reactant | {6-[(octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate | 16.43 g | CN1CCN(CC1)C(=O)OCC1CC=CCC1C(=O)NCCCCCCCCCCCCCCCCCC | C32H59N3O3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | {6-[(Octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-methyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride | 14.69 g | Cl.CN1CCN(CC1)C(=O)OCC1CC=CCC1C(=O)NCCCCCCCCCCCCCCCCCC | InChI=1S/C32H59N3O3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-33-31(36)30-22-19-18-21-29(30)28-38-32(37)35-26-24-34(2)25-27-35;/h18-19,29-30H,3-17,20-28H2,1-2H3,(H,33,36);1H
